US05055579
2-[4-(4,6-bis-trichloromethyl-s-triazin-2-yl)benzoylmethylene]-1,3,3-trimethyl-indoline (compound 29)
4-(4,6-Bis-trichloromethyl-s-triazin-2-yl)benzoylchloride (15.4 pbw) are added dropwise with stirring at 10° C. to 5.2 pbw of 1,3,3-trimethyl-2-methylene-indoline and 10.6 pbw of triethylamine in 140 pbw of anhydrous toluene. The mixture is stirred for 3 hours at room temperature. It is then admixed with 100 pbw of water and 200 pbw of ether and extracted by shaking. The dried organic phase is concentrated. The residue is recrystallized from 2-methoxy-ethanol, giving red-orange crystals.

reactant | 4-(4,6-Bis-trichloromethyl-s-triazin-2-yl)benzoylchloride | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C(=O)Cl)C=C1)(Cl)Cl | C12H4Cl7N3O
reactant | 1,3,3-trimethyl-2-methylene-indoline | CN1C(C(C2=CC=CC=C12)(C)C)=C | C12H15N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-[4-(4,6-bis-trichloromethyl-s-triazin-2-yl)benzoylmethylene]-1,3,3-trimethyl-indoline | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C(=O)C=C2N(C3=CC=CC=C3C2(C)C)C)C=C1)(Cl)Cl | C24H18Cl6N4O
